US07723352B2
To a solution of 2-benzyl-4-methoxybenzoic acid (14.2 g) in 600 mL CH2Cl2 was added a catalytic amount of DMF, followed by a solution of oxalyl chloride (8.7 g) in 100 mL of CH2Cl2. The reaction was stirred at room temp overnight, then concentrated and azeotroped with toluene (2×). The residue was dissolved in 700 mL CH2Cl2 and cooled to 0 C. Tert-butyl amine (13.9 g) was added, and the reaction was warmed to room temp. After 1.5 h, the reaction was quenched with 5% aqueous KHSO4. The organic solution was separated, washed once with saturated aqueous sodium bicarbonate, dried (Na2SO4) and concentrated to give 15.9 g of 2-benzyl-N-tert-butyl)-4-methoxybenzamide.

reactant | 2-benzyl-4-methoxybenzoic acid | 14.2 g | C(C1=CC=CC=C1)C1=C(C(=O)O)C=CC(=C1)OC | C15H14O3
reactant | DMF | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 8.7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-methoxybenzamide | COC1=CC=C(C(=O)N)C=C1 | C8H9NO2
